US05672586
To a solution of α(R)-methylcyclohexane-propionic acid (2.4 g, 14 mmol) in dry CH2Cl12 (30 mL) was added DMF (1 drop) and oxalyl chloride (2 g, 15 mmol). After 2 h at room temperature, the mixture was concentrated. The residue was dissolved in Et2O (10 mL). This solution was filtered. The filtrate was concentrated to provide α(R)-methylcyclohexanepropionic acid chloride as a clear yellow liquid (2.6 g, 98% yield). 1H NMR (400 MHz, CDCl3) 3.02-2.91 (m, 1H), 1.80-1.63 (m, 6H), 1.39-1.10 (m, 5H), 1.28 (d, J=7 Hz, 3H), 0.99-0.85 (m, 2H). This material was used without further purification in the coupling reaction described in the following example.

reactant | α(R)-methylcyclohexane-propionic acid | 14 mmol, 2.4 g | C[C@@H](C(=O)O)CC1CCCCC1 | C10H18O2
reactant | oxalyl chloride | 15 mmol, 2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | α(R)-methylcyclohexanepropionic acid chloride | 2.6 g, 98% yield | C[C@@H](C(=O)Cl)CC1CCCCC1 | C10H17ClO
